US05171744
(2R,3R) and (2S,3R) 3-Quinuclidinyl 3-hydroxy-2-pheny-2-(1H-tetrazol-1-yl)propanoate
Sodium hydride (23 mg of an 80% dispersion in oil) was added to a mixture of (2RS,3R) 3-quinuclidinyl 2-phenyl-2-(1H-tetrazol-1-yl)acetate (see Preparation 5) (0.7 g) and paraformaldehyde (87 mg) in tetrahydrofuran (20 ml) at room temperature. After 1/2 hour saturated aqueous ammonium chloride was added, the tetrahydrofuran was evaporated under reduced pressure, and the aqueous residue extracted with ethyl acetate. The organic layer was dried over magnesium sulphate and evaporated under reduced pressure to leave a residue which was purified by chromatography on silica gel performing a gradient elution using dichloromethane pluse methanol 2→10% as eluant. Evaporation of appropriate fractions gave the two title compounds. Which isomer had 2R stereochemistry, and which 2S, was not assessed.

reactant | Sodium hydride | [H-].[Na+]
reactant | (2RS,3R) 3-quinuclidinyl 2-phenyl-2-(1H-tetrazol-1-yl)acetate | 0.7 g | C1(=CC=CC=C1)C(C(=O)O[C@H]1CN2CCC1CC2)N2N=NN=C2 | C16H19N5O2
reactant | paraformaldehyde | 87 mg | C=O | CH2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2S,3R) 3-Quinuclidinyl 3-hydroxy-2-pheny-2-(1H-tetrazol-1-yl)propanoate | OC[C@@](C(=O)O[C@H]1CN2CCC1CC2)(N2N=NN=C2)C2=CC=CC=C2 | C17H21N5O3
